* source ECE351LAB1P2
D_D1         N09595 N09527 D1N4004 
D_D2         N09599 N09527 D1N4004 
D_D4         0 N09599 D1N4004 
D_D3         0 N09595 D1N4004 
R_R1         0 N09551 10 
C_C1         N09527 0 680u 
V_V1         N09595 N09599 
+SIN 0 16.97 60 0 0 0
X_U2         N09527 N09551 0 x_LM78XX PARAMS:
+     Av_feedback=1665, R1_Value=1020
